US05436229
Preparation of N-(acetyl)-D-phenylalanyl-L-Prolinyl-L-Arginine Aldehyde Hydrochloride Ac-D-Phe-Pro-Arg-H.HCl
By methods substantially equivalent to those described in Example 51, using acetyl chloride in place of MeSO2Cl , 210 mg of Ac-D-Phe-Pro-Arg-H.HCl dihydrate was prepared. Ac-D-Phe-Pro-Arg-H.HCl was purified by RPHPLC (95/5 (A/B), 80 min; ramp to 75/25 (A/B), 320 min; hold to 360 min).

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | Ac-D-Phe-Pro-Arg-H.HCl dihydrate | 210 mg | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1)C(=O)C.Cl.O.O
product | N-(acetyl)-D-phenylalanyl-L-Prolinyl-L-Arginine Aldehyde Hydrochloride | Cl.C(C)(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1 | InChI=1S/C22H32N6O4.ClH/c1-15(30)26-18(13-16-7-3-2-4-8-16)21(32)28-12-6-10-19(28)20(31)27-17(14-29)9-5-11-25-22(23)24;/h2-4,7-8,14,17-19H,5-6,9-13H2,1H3,(H,26,30)(H,27,31)(H4,23,24,25);1H/t17-,18+,19-;/m0./s1
